US04447435
A stirred mixture of ethyl 7-ethyl-4-hydroxyquinoline-3-carboxylate and 5 M aqueous sodium hydroxide solution was heated to reflux. When all the solids had dissolved the solution was boiled for a further 30 minutes, cooled, and acidified to pH 4.0 with glacial acetic acid (30 ml.). The solid was collected, washed with water until the washings were neutral, and dried to give the novel compound 7-ethyl-4-hydroxyquinoline-3-carboxylic acid, m.p. 175°-178°.

reactant | ethyl 7-ethyl-4-hydroxyquinoline-3-carboxylate | C(C)C1=CC=C2C(=C(C=NC2=C1)C(=O)OCC)O | C14H15NO3
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 7-ethyl-4-hydroxyquinoline-3-carboxylic acid | C(C)C1=CC=C2C(=C(C=NC2=C1)C(=O)O)O | C12H11NO3
